US08476261B2
47C) Preparation of 2-[1-(benzylamino)cyclobutyl]ethanol
LiAlH4 (3.88 g, 0.102 mol) was added to a solution of ethyl 1-(benzoylamino)-cyclobutylacetate (5.30 g, 20.3 mmol) in THF (100 mL) at room temperature. The mixture was stirred for 1 hour, then refluxed for one additional hour. The mixture was cooled in an ice-water bath, a few drops of water were added, and the mixture was allowed to stand overnight. The mixture was diluted with ethyl acetate, dried over anhydrous Na2SO4, filtered, and concentrated in vacuo. Distillation of the residue gave the title compound as a colorless oil (2.53 g, 61%). 1H-NMR (400 MHz, CDCl3) δ 1.69-1.86 (2H, m), 1.88 (2H, t, J=5.5 Hz), 1.92-2.09 (4H, m), 3.73 (2H, s), 3.87 (2H, t, J=5.5 Hz), 7.22-7.35 (5H, m).

reactant | LiAlH4 | 0.102 mol, 3.88 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | ethyl 1-(benzoylamino)-cyclobutylacetate | 20.3 mmol, 5.30 g | C(C1=CC=CC=C1)(=O)NC1(CCC1)CC(=O)OCC | C15H19NO3
solvent | THF | 100 mL | C1CCOC1 | C4H8O
catalyst | water | a few drops | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-[1-(benzylamino)cyclobutyl]ethanol | 2.53 g, 61% | C(C1=CC=CC=C1)NC1(CCC1)CCO | C13H19NO
